US05556864
Following a procedure similar to that described in the first part of Preparation 4, the whole of this ethyl 3-(2-naphthyl)propionate was reacted with 668 mg of lithium aluminum hydride in tetrahydrofuran at room temperature for 1.5 hours. At the end of this time, the reaction mixture was worked up and purified as described in the first part of Preparation 4, to give 3.29 g of 3-(2-naphthyl)propanol as a colorless oil.

reactant | ethyl 3-(2-naphthyl)propionate | C1=C(C=CC2=CC=CC=C12)CCC(=O)OCC | C15H16O2
reactant | lithium aluminum hydride | 668 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(2-naphthyl)propanol | 3.29 g | C1=C(C=CC2=CC=CC=C12)CCCO | C13H14O
